US07981903B2
A suspension of N,N-dimethyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1 H-indol-1-yl]-2-oxoethanamine (26.6 g, 95 mmol), iron(III)chloride (3.09 g, 19.05 mmol), activated carbon (25 g, 95 mmol), and hydrazine hydrate (37.4 mL, 762 mmol) in methanol (500 mL) was warmed to 65° C. and maintained overnight. The reaction was filtered through celite while still warm and all methanol was removed under reduced pressure. The solids were partitioned between ethyl acetate (ca 1 L) and saturated sodium chloride (ca 1 L) and the aqueous layer was washed twice with ethyl acetate (ca 500 mL). The combined organic layers were dried over sodium sulfate, taken to a residue under reduced pressure, and the derived solids triturated with hexanes/diether ether and filtered to afford 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (16.46 g, 69.3% yield) as an off-white solid: NMR: 1H NMR (400 MHz, DMSO-d6) δ ppm 2.23 (s, 6 H), 2.95 (t, J=8.25 Hz, 2 H), 3.11 (s, 2H), 3.69 (s, 3 H), 4.07 (s, 2 H), 4.61 (s, 2 H), 6.68 (s, 1 H), 7.53 (s, 1 H).

reactant | N,N-dimethyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1 H-indol-1-yl]-2-oxoethanamine | 95 mmol, 26.6 g | CN(CC(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC)C | C13H17N3O4
reactant | hydrazine hydrate | 762 mmol, 37.4 mL | O.NN
solvent | methanol | 500 mL | CO | CH4O
catalyst | iron(III)chloride | 19.05 mmol, 3.09 g | [Fe](Cl)(Cl)Cl
product | 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 16.46 g, 69.3% yield | CN(C)CC(=O)N1CCC2=CC(=C(C=C12)N)OC | C13H19N3O2
